***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD19532Q5B
* Date: 12/04/2013
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS414 - DECEMBER 2013
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
**********************************************************************
**********************************************************************
*                                                                    *
* CSD19532Q5B   -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	1.53E-09	)
+ (	1	1.56E-09	)
+ (	2	1.55E-09	)
+ (	3	1.55E-09	)
+ (	4	1.54E-09	)
+ (	5	1.54E-09	)
+ (	6	1.54E-09	)
+ (	7	1.57E-09	)
+ (	8	1.68E-09	)
+ (	9	1.68E-09	)
+ (	10	1.68E-09	)
+ (	11	1.68E-09	)
+ (	12	1.68E-09	)
+ (	13	1.68E-09	)
+ (	14	1.68E-09	)
+ (	15	1.68E-09	)
+ (	16	1.67E-09	)
+ (	17	1.67E-09	)
+ (	18	1.67E-09	)
+ (	19	1.67E-09	)
+ (	20	1.67E-09	)
+ (	21	1.66E-09	)
+ (	22	1.66E-09	)
+ (	23	1.66E-09	)
+ (	24	1.66E-09	)
+ (	25	1.66E-09	)
+ (	26	1.66E-09	)
+ (	27	1.65E-09	)
+ (	28	1.65E-09	)
+ (	29	1.65E-09	)
+ (	30	1.65E-09	)
+ (	31	1.64E-09	)
+ (	32	1.64E-09	)
+ (	33	1.64E-09	)
+ (	34	1.64E-09	)
+ (	35	1.63E-09	)
+ (	36	1.63E-09	)
+ (	37	1.63E-09	)
+ (	38	1.63E-09	)
+ (	39	1.62E-09	)
+ (	40	1.62E-09	)
+ (	41	1.62E-09	)
+ (	42	1.61E-09	)
+ (	43	1.61E-09	)
+ (	44	1.61E-09	)
+ (	45	1.60E-09	)
+ (	46	1.60E-09	)
+ (	47	1.60E-09	)
+ (	48	1.59E-09	)
+ (	49	1.59E-09	)
+ (	50	1.59E-09	)
+ (	51	1.58E-09	)
+ (	52	1.58E-09	)
+ (	53	1.58E-09	)
+ (	54	1.57E-09	)
+ (	55	1.57E-09	)
+ (	56	1.57E-09	)
+ (	57	1.56E-09	)
+ (	58	1.56E-09	)
+ (	59	1.55E-09	)
+ (	60	1.55E-09	)
+ (	61	1.55E-09	)
+ (	62	1.54E-09	)
+ (	63	1.54E-09	)
+ (	64	1.54E-09	)
+ (	65	1.53E-09	)
+ (	66	1.53E-09	)
+ (	67	1.52E-09	)
+ (	68	1.52E-09	)
+ (	69	1.52E-09	)
+ (	70	1.51E-09	)
+ (	71	1.51E-09	)
+ (	72	1.50E-09	)
+ (	73	1.50E-09	)
+ (	74	1.50E-09	)
+ (	75	1.49E-09	)
+ (	76	1.49E-09	)
+ (	77	1.48E-09	)
+ (	78	1.48E-09	)
+ (	79	1.48E-09	)
+ (	80	1.47E-09	)
+ (	81	1.47E-09	)
+ (	82	1.46E-09	)
+ (	83	1.46E-09	)
+ (	84	1.46E-09	)
+ (	85	1.45E-09	)
+ (	86	1.45E-09	)
+ (	87	1.44E-09	)
+ (	88	1.44E-09	)
+ (	89	1.44E-09	)
+ (	90	1.43E-09	)
+ (	91	1.43E-09	)
+ (	92	1.42E-09	)
+ (	93	1.42E-09	)
+ (	94	1.42E-09	)
+ (	95	1.41E-09	)
+ (	96	1.41E-09	)
+ (	97	1.41E-09	)
+ (	98	1.41E-09	)
+ (	99	1.41E-09	)
+ (	100	1.40E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-v(6,0)*v(8,0)*1e15}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	4.42E-10	)
+ (	1	3.54E-10	)
+ (	2	3.28E-10	)
+ (	3	3.07E-10	)
+ (	4	2.88E-10	)
+ (	5	2.70E-10	)
+ (	6	2.50E-10	)
+ (	7	1.92E-10	)
+ (	8	3.92E-11	)
+ (	9	3.58E-11	)
+ (	10	3.37E-11	)
+ (	11	3.22E-11	)
+ (	12	3.09E-11	)
+ (	13	2.98E-11	)
+ (	14	2.88E-11	)
+ (	15	2.78E-11	)
+ (	16	2.69E-11	)
+ (	17	2.61E-11	)
+ (	18	2.53E-11	)
+ (	19	2.45E-11	)
+ (	20	2.38E-11	)
+ (	21	2.30E-11	)
+ (	22	2.23E-11	)
+ (	23	2.16E-11	)
+ (	24	2.09E-11	)
+ (	25	2.03E-11	)
+ (	26	1.96E-11	)
+ (	27	1.90E-11	)
+ (	28	1.84E-11	)
+ (	29	1.79E-11	)
+ (	30	1.74E-11	)
+ (	31	1.70E-11	)
+ (	32	1.66E-11	)
+ (	33	1.62E-11	)
+ (	34	1.59E-11	)
+ (	35	1.56E-11	)
+ (	36	1.54E-11	)
+ (	37	1.52E-11	)
+ (	38	1.50E-11	)
+ (	39	1.48E-11	)
+ (	40	1.47E-11	)
+ (	41	1.47E-11	)
+ (	42	1.47E-11	)
+ (	43	1.47E-11	)
+ (	44	1.47E-11	)
+ (	45	1.47E-11	)
+ (	46	1.47E-11	)
+ (	47	1.47E-11	)
+ (	48	1.47E-11	)
+ (	49	1.47E-11	)
+ (	50	1.47E-11	)
+ (	51	1.47E-11	)
+ (	52	1.47E-11	)
+ (	53	1.47E-11	)
+ (	54	1.47E-11	)
+ (	55	1.47E-11	)
+ (	56	1.47E-11	)
+ (	57	1.47E-11	)
+ (	58	1.47E-11	)
+ (	59	1.47E-11	)
+ (	60	1.47E-11	)
+ (	61	1.47E-11	)
+ (	62	1.47E-11	)
+ (	63	1.47E-11	)
+ (	64	1.47E-11	)
+ (	65	1.47E-11	)
+ (	66	1.47E-11	)
+ (	67	1.47E-11	)
+ (	68	1.47E-11	)
+ (	69	1.47E-11	)
+ (	70	1.47E-11	)
+ (	71	1.47E-11	)
+ (	72	1.47E-11	)
+ (	73	1.47E-11	)
+ (	74	1.47E-11	)
+ (	75	1.47E-11	)
+ (	76	1.47E-11	)
+ (	77	1.47E-11	)
+ (	78	1.47E-11	)
+ (	79	1.47E-11	)
+ (	80	1.47E-11	)
+ (	81	1.47E-11	)
+ (	82	1.47E-11	)
+ (	83	1.47E-11	)
+ (	84	1.47E-11	)
+ (	85	1.47E-11	)
+ (	86	1.47E-11	)
+ (	87	1.47E-11	)
+ (	88	1.47E-11	)
+ (	89	1.47E-11	)
+ (	90	1.47E-11	)
+ (	91	1.47E-11	)
+ (	92	1.47E-11	)
+ (	93	1.47E-11	)
+ (	94	1.47E-11	)
+ (	95	1.47E-11	)
+ (	96	1.47E-11	)
+ (	97	1.47E-11	)
+ (	98	1.47E-11	)
+ (	99	1.47E-11	)
+ (	100	1.47E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-v(6,0)*v(8,0)*1e15}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	5.23E-09	)
+ (	1	4.49E-09	)
+ (	2	3.96E-09	)
+ (	3	3.60E-09	)
+ (	4	3.33E-09	)
+ (	5	3.11E-09	)
+ (	6	2.88E-09	)
+ (	7	2.44E-09	)
+ (	8	1.89E-09	)
+ (	9	1.62E-09	)
+ (	10	1.53E-09	)
+ (	11	1.46E-09	)
+ (	12	1.40E-09	)
+ (	13	1.34E-09	)
+ (	14	1.29E-09	)
+ (	15	1.25E-09	)
+ (	16	1.21E-09	)
+ (	17	1.18E-09	)
+ (	18	1.16E-09	)
+ (	19	1.14E-09	)
+ (	20	1.12E-09	)
+ (	21	1.11E-09	)
+ (	22	1.11E-09	)
+ (	23	1.10E-09	)
+ (	24	1.10E-09	)
+ (	25	1.10E-09	)
+ (	26	1.10E-09	)
+ (	27	1.10E-09	)
+ (	28	1.10E-09	)
+ (	29	1.10E-09	)
+ (	30	1.09E-09	)
+ (	31	1.08E-09	)
+ (	32	1.06E-09	)
+ (	33	1.05E-09	)
+ (	34	1.03E-09	)
+ (	35	1.01E-09	)
+ (	36	9.87E-10	)
+ (	37	9.65E-10	)
+ (	38	9.42E-10	)
+ (	39	9.20E-10	)
+ (	40	8.98E-10	)
+ (	41	8.76E-10	)
+ (	42	8.54E-10	)
+ (	43	8.33E-10	)
+ (	44	8.11E-10	)
+ (	45	7.90E-10	)
+ (	46	7.70E-10	)
+ (	47	7.50E-10	)
+ (	48	7.29E-10	)
+ (	49	7.10E-10	)
+ (	50	6.90E-10	)
+ (	51	6.71E-10	)
+ (	52	6.53E-10	)
+ (	53	6.35E-10	)
+ (	54	6.18E-10	)
+ (	55	6.02E-10	)
+ (	56	5.86E-10	)
+ (	57	5.72E-10	)
+ (	58	5.59E-10	)
+ (	59	5.47E-10	)
+ (	60	5.36E-10	)
+ (	61	5.25E-10	)
+ (	62	5.16E-10	)
+ (	63	5.07E-10	)
+ (	64	4.99E-10	)
+ (	65	4.92E-10	)
+ (	66	4.85E-10	)
+ (	67	4.79E-10	)
+ (	68	4.73E-10	)
+ (	69	4.68E-10	)
+ (	70	4.63E-10	)
+ (	71	4.58E-10	)
+ (	72	4.54E-10	)
+ (	73	4.50E-10	)
+ (	74	4.46E-10	)
+ (	75	4.42E-10	)
+ (	76	4.39E-10	)
+ (	77	4.36E-10	)
+ (	78	4.32E-10	)
+ (	79	4.30E-10	)
+ (	80	4.27E-10	)
+ (	81	4.24E-10	)
+ (	82	4.22E-10	)
+ (	83	4.19E-10	)
+ (	84	4.17E-10	)
+ (	85	4.15E-10	)
+ (	86	4.13E-10	)
+ (	87	4.11E-10	)
+ (	88	4.10E-10	)
+ (	89	4.08E-10	)
+ (	90	4.06E-10	)
+ (	91	4.05E-10	)
+ (	92	4.03E-10	)
+ (	93	4.02E-10	)
+ (	94	4.00E-10	)
+ (	95	3.99E-10	)
+ (	96	3.98E-10	)
+ (	97	3.98E-10	)
+ (	98	3.98E-10	)
+ (	99	3.98E-10	)
+ (	100	3.98E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-v(6,0)*v(8,0)*1e15}
.ends cds
.SUBCKT CSD19532Q5B  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    8.00e-3  
 .PARAM  ptrc2    2.5e-5
 .PARAM  pwidthP  6.55
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   	10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
xcgd	5	10	1	3	cgd
xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD		3	1	DBD
LGG   	2	5	2.1e-9
RGG   	5	11	1.275
RSB  	12	9	RTEMP 0.23166e-3
R   	9	8	RTEMP 0.23166e-3
RSP   	8	6	0.55e-3
L   	6	3	0.47e-9
RSL   	6	3	0.5
RDD   	7	10	RTEMP {1.367e-3+2.57e-3-1.54e-3}
RDP   	4	7	0.5e-4
LDD   	1	4	0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.37        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.10
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.485e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL DBD D (CJO=1.00e-18 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=101
+ IS=5.0e-12 N=1.045 RS=0.75e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD19532Q5B
*$
*